US06281381B1
A suspension of alendronate sodium trihydrate 1.0 g (3.08 mmol) in aqueous ethanol (10 ml of ethanol+1.9 ml of water) was boiled at reflux with stirring for 15 hrs. After cooling to ambient temperature the solid was filtered, washed with absolute ethanol and ether, and dried overnight in a vacuum oven (10-15 mm Hg, ambient temperature) to give 0.9 g of alendronate sodium, containing crystal form G.

reactant | alendronate sodium trihydrate | 3.08 mmol, 1.0 g | C(CC(O)(P(=O)(O)O)P(=O)(O)[O-])CN.O.O.O.[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | alendronate sodium | 0.9 g | C(CC(O)(P(=O)(O)O)P(=O)(O)[O-])CN.[Na+] | InChI=1S/C4H13NO7P2.Na/c5-3-1-2-4(6,13(7,8)9)14(10,11)12;/h6H,1-3,5H2,(H2,7,8,9)(H2,10,11,12);/q;+1/p-1
